US08563577B2
Preparation of ethyl 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetate (I5)
4-Fluoro-N-methylaniline (0.33 g, 2.67 mmol) was added to a solution of ethyl 2-bromo-2-phenylacetate (0.36 ml, 2.06 mmol) in acetonitrile (6.86 ml) and DIPEA (0.47 ml, 2.67 mmol). The dark solution was stirred at 100° C. under microwave irradiation for 1 hour. Then solvent was evaporated and the crude was purified by flash chromatography (Petroleum ether/EtOAc=97/3) to obtain intermediate I5 (0.59 g, 100% yield).

reactant | 4-Fluoro-N-methylaniline | 2.67 mmol, 0.33 g | FC1=CC=C(NC)C=C1 | C7H8FN
reactant | ethyl 2-bromo-2-phenylacetate | 2.06 mmol, 0.36 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 2.67 mmol, 0.47 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6.86 ml | C(C)#N | C2H3N
product | ethyl 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetate | 100% yield | FC1=CC=C(C=C1)N(C(C(=O)OCC)C1=CC=CC=C1)C | C17H18FNO2
